US07115596B2
(3S)-Ethyl 3-(1,3-benzodioxol-5-yl)-4-[2-(4-oxobutyl)-1,3-thiazol-4-yl]butanoate
Dimethyl sulfoxide (1.47 mL, 3.15 mmol) was cooled in 5 mL CH2Cl2 to −70° C. for 10 min. The oxalyl chloride (2.0M in CH2Cl2, 4.9 mL, 9.85 mmol) was added, and the reaction was allowed to stir at −70° C. for 1 hr. A solution of (3S)-Ethyl 3-(1,3-benzodioxol-5-yl)-4-[2-(4-hydroxybutyl)-1,3-thiazol-4-yl]butanoate (2.57 g, 6.56 mmol) in CH2Cl2 (5 mL) was added to the reaction and stirred at −70° C. for 1 hr. Add triethylamine (5.96 mL, 6.52 mmol) and allow to warm to room temperature. Dilute with ethyl acetate, wash with water, 1 N HCl, water, and brine. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo and purified via silica gel chromatography (eluent: 3:1 Hexane:Ethyl Acetate) to give the product as a colorless oil. Yield: 1.95g (76%) 1H NMR (DMSO-d6) δ9.68–9.65 (m, 1H), 6.98–6.95 (m, 1H), 6.75–6.71 (m, 1H), 6.63–6.58 (m, 1H), 5.94 (s, 2H), 3.96–3.88 (q, 2H), 3.47–3.38 (m, 1H), 3.00–2.85 (m, 4H), 2.68–2.48 (m, 4H), 1.97–1.88 (m, 2H), 1.08–1.01 (t, 3H).

reactant | Dimethyl sulfoxide | 3.15 mmol, 1.47 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 9.85 mmol, 2.0M, 4.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3S)-Ethyl 3-(1,3-benzodioxol-5-yl)-4-[2-(4-hydroxybutyl)-1,3-thiazol-4-yl]butanoate | 6.56 mmol, 2.57 g | O1COC2=C1C=CC(=C2)[C@H](CC(=O)OCC)CC=2N=C(SC2)CCCCO | C20H25NO5S
reactant | triethylamine | 6.52 mmol, 5.96 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S)-Ethyl 3-(1,3-benzodioxol-5-yl)-4-[2-(4-oxobutyl)-1,3-thiazol-4-yl]butanoate | O1COC2=C1C=CC(=C2)[C@H](CC(=O)OCC)CC=2N=C(SC2)CCCC=O | C20H23NO5S
